US06599917B1
d) (3R)-3-[2-Benzyl-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]-3-pyridyl)ethynyl-3-quinuclidinol
A mixture of 4.19 g of 2-benzyl-3-iodo-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine, 1.7 g of (3R)-3-ethynyl-3-quinuclidinol, 500 mg of tetrakis(triphenylphosphine)palladium(0), 10 mg of cuprous iodide, 4.2 ml of triethylamine and 13 ml of N,N-dimethylformamide was heated under stirring in an oil bath kept at 70° C. for 3 hours in a nitrogen atmosphere. After cooling as it was, the mixture was extracted with ethyl acetate-dilute aqueous ammonia. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was subjected to NH-silica gel column chromatography and eluted with 20-100% ethyl acetate/hexane and then with 5% methanol/ethyl acetate, to give 1.54 g of the target compound.

reactant | 2-benzyl-3-iodo-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine | 4.19 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@@H](C1)OC)O | C17H19IN2O2
reactant | (3R)-3-ethynyl-3-quinuclidinol | 1.7 g | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 500 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | (3R)-3-[2-Benzyl-6-[(3R,4R)-3-hydroxy-4-methoxypyrrolidine-1-yl]-3-pyridyl)ethynyl-3-quinuclidinol | 1.54 g | C(C1=CC=CC=C1)C1=NC(=CC=C1C#C[C@]1(CN2CCC1CC2)O)N2C[C@H]([C@@H](C2)OC)O | C26H31N3O3
